Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
apples / hydrochlorothiazide / lisinopril
 
Attending: ___.
 
Chief Complaint:
Shortness of breath  
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ PMH dCHF, COPD, NIDDM, AF not on AC and a history of 
recurrent GI bleeding p/w dyspnea. Patient states she has had 
shortness of breath for "a long time," but it has worsened in 
particular over the past 1 week. She has  noted shortness of 
breath that is worse with exertion and lying flat, to the point 
where she has difficulty getting to her toilet without getting 
SOB. She has also had a few episodes of paroxysmal nocturnal 
dyspnea, waking at night gasping for air. This is in the context 
of stopping her home torsemide for at least a week; per Pt, this 
was discontinued by one of her other 
providers. Due to her symptoms, she called EMS and was taken to 
___ - she requested transfer to ___ as all 
her care is otherwise managed here.  

Prior to her transfer, Pt was given 40mg of IV furosemide and 
325mg PO aspirin. She feels better after the furosemide given 
there.  
In review of patient's recent hospitalizations.
-She was seen ___ with BRBPR. Required 8uPRBC transfusion,  

with EGD and abdominal CTA not obviously localizing a source.  
Capsule endoscopy c/b slowed transit and delayed release.  
-She was readmitted from ___ after capsule endoscopy was 
read  
as having active bleeding, with blood seen in the proximal and  
mid-jejunum. Referred here for single-balloon enteroscopy, which 
 
showed small angioectasia with stigmata of recent bleed in  
anterior bulb. Unerwent ablation of this angioectasia with APC,  

and had several non-bleeding small angioectasias in the jejunum  

similarly ablated.  
In the ED, initial VS were: T 96.1 BP 177/80 HR 80 RR 17 O2 94%  

Exam notable for:  
"Diminished lung sounds bilateral bases with faint crackles ___ 
pitting edema b/l."  
 
EKG:  
Compared to prior dated ___. Atrial fibrillation at a rate of 
60bpm. Normal axis. Stable RBBB, with new TWI in V2 and V3. 
Stably poor R-wave progression.  

Labs showed:  
-Trop-T 0.04  
-Cr 1.4, K 4.8  
-Hb 8.1 (most recent discharge 7.2, has been between ___ since 
___  
-BNP 3000 at OSH per ED dash  

Imaging showed:  
OSH CXR PORTABLE ___, my read):  
Bilateral pleural effusions, moderate pulmonary vascular 
congestion and fluid in RML fissure c/w pulmonary edema.  
Consults: None  
Patient received:  
 -40mg IV furosemide at OSH  
 -325mg ASA at OSH  
Transfer VS were: T 97.7 BP 161/68 HR 63 RR 18 O2 96% on 4L NC  
On arrival to the floor, patient reports the above history. She 
notes occasional palpitations, particularly when she is feeling 
short of breath; also notes progressive leg swelling. She denies 
chest pain, dizziness/lightheadedness, fevers, chills, abdominal 
pain, N/V/D, melena, hematochezia, dysuria, and hematuria.  
 
REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as 
per HPI  
 
Past Medical History:
- Diastolic Congestive heart failure (65% ___
- Atrial flutter s/p ablation ___ 
- DM type II  
- Hyperlipidemia  
- Hypertension  
- Fifteen pack remote smoking history about ___ years ago.
- Obesity  
- History of GIBs
- COPD
- ___ diverticular bleed 
- ___ duodenal AVMs s/p cautery  
- ___ angioectasias of fundus s/p injections/thermal therapy  
- Iron deficiency anemia  
- Diverticulitis

___: Hospitalization for GI bleed thought to be secondary to 
diverticulosis->received 3 units of packed red blood cells; 
patient deferred EGD/colonoscopy.
___: Left wrist gout flare.
___: Klebsiella urinary tract infection
___: atrial flutter with RVR thought to be secondary to 
urinary tract infection as well as pain from left wrist gout.
 
Social History:
___
___ History:
Father died of stroke at ___ years of age.  He was an ___ 
___. Mother died of diabetes complications in her ___. 
Possible 
stomach cancer? ___ brother had MI, 1 brother 
died of colon cancer at ___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS: T 97.6 BP 183/75 HR 59 RR 20 O2 97% on 3 L nasal cannula  
 GENERAL: Obese Caucasian woman, comfortable. Sitting at the 
edge  
 of the bed, waiting to use the commode. In no acute distress.  
 HEENT: Sclerae anicteric, mucous membranes moist.  
 NECK: JVP elevated to 11 cm of water while sitting upright.  
 HEART: Borderline bradycardic with irregular rhythm, normal  
 S1/S2, no murmurs, gallops, or rubs  
 LUNGS: Crackles at the bases bilaterally, higher on the right.  

 No wheezing.  
 ABDOMEN: Abdomen is soft, nondistended, nontender in all  
 quadrants, with no rebound/guarding. No hepatosplenomegaly  
 EXTREMITIES: Warm and well perfused. +2 lower extremity edema 
to  
 the thighs bilaterally, just above the knee.  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: Alert oriented Ã_x0097_3. Moving all four extremities with  
 purpose.  
 SKIN: No excoriations or lesions, no rashes  

DISCHARGE PHYSICAL EXAM
___ 0811 Temp: 98.3 PO BP: 127/49 L Sitting HR: 73 RR: 20 
O2
sat: 97% O2 delivery: 1L FSBG: 216 
GEN: sitting up on edge of bed, comfortable, NAD 
HEENT: Clear OP, JVP not obviously elevated 
___: irregular rate and rhythm, S1, S2 
RESP: non-labored breathing, expiratory wheezes in lower lobes 
ABD: soft, nondistended, nontender to palpation 
EXT: Warm to touch, 1+ pitting edema to knee bilaterally
 
Pertinent Results:
ADMISSION LABS
==============
___ 12:07AM BLOOD WBC-8.1 RBC-3.54* Hgb-8.1* Hct-28.4* 
MCV-80* MCH-22.9* MCHC-28.5* RDW-20.0* RDWSD-57.7* Plt ___
___ 12:07AM BLOOD Glucose-130* UreaN-39* Creat-1.4* Na-144 
K-4.8 Cl-108 HCO3-21* AnGap-15
___ 12:07AM BLOOD Calcium-9.5 Phos-4.2 Mg-1.8

DISCHARGE LABS
==============
___ 05:35AM BLOOD WBC-6.7 RBC-3.64* Hgb-8.3* Hct-29.0* 
MCV-80* MCH-22.8* MCHC-28.6* RDW-19.6* RDWSD-55.8* Plt ___
___ 05:35AM BLOOD Glucose-189* UreaN-51* Creat-1.8* Na-141 
K-4.6 Cl-99 HCO3-27 AnGap-15
___ 05:35AM BLOOD Calcium-8.8 Phos-3.8 Mg-1.9

IMAGING
=======
___ CXR 

Compared to chest radiographs since ___ most recently ___.
 
Previous mild pulmonary edema has resolved, pulmonary 
vasculature is now less engorged and mild enlargement of the 
cardiac silhouette has improved.  Moderate right pleural 
effusion is larger, including a small fissural component, small 
left pleural effusion is stable and there is no pneumothorax. In 
the setting of persistent moderate bibasilar consolidation that 
developed with edema on ___, concurrent pneumonia would be 
indistinguishable from residual edema and atelectasis.
 
 
Brief Hospital Course:
___ woman with a past medical history notable for 
diastolic congestive heart failure (EF 61%), A flutter status 
post ablation, type 2 diabetes, hypertension, and recent GI 
bleed from duodenal and jejunal AVMs (status post ablation 2 
weeks ago) who presented to ___ with shortness 
of breath in the setting of stopping her diuretic for several 
days. 

#Acute on Chronic Diastolic Heart Failure: 
#Acute Hypoxic Respiratory Failure:
Patient states she was instructed to hold her home torsemide and 
had not taken it for many days. There was no concern for an 
ischemic event. She was diuresed with IV furosemide boluses in 
addition to a continuous infusion. Her oxygen requirement and 
dyspnea improved and she was transitioned to torsemide 40mg 
daily prior to discharge. Although the patient continued to have 
pitting edema on exam, her weight was significantly lower than 
it had been previously and her Cr started to bump. 

Discharge Weight: 89.2 kg 

Preload: Torsemide 40mg Daily
Afterload: Losartan 50mg daily
NHBK: Metoprolol Succinate 100mg Daily

#Acute hypoxic respiratory failure
#COPD: 
Patient remained hypoxic to the high ___ when on room air. 
Although he oxygen requirement improved with diuresis, it did 
not completely resolve. This was attributed to her underlying 
COPD. She was able to walk with ___ but had desaturated to the 
mid ___ with activity. Therefore, home oxygen therapy was 
arranged. 

-cont home advair and ___ consider uptitration of COPD 
treatment as outpatient. 

#Atrial fibrillation: Patient has reported history of Aflutter 
ablation. While on telemetry, the patient was found to be in 
AFib with occasional, brief, asymptomatic spikes to 130s. 
Anticoagulation was differed due to history of GI bleeding. Rate 
controlled well with metoprolol.

#HTN: Patient states she does not take BP meds as an outpatient.
She presents with SBP in the 180s which may have contributed to 
her. She was started on losartan, which she had a prior Rx for. 
BPs were better controlled since starting losartan.

-continue losartan 50mg Daily 

#Chronic blood loss anemia:
Due to history of recurrent GI bleeding. CBC stable while in 
house. 

#CKD Stage IIIb: Cr fluctuated during hospitalization in the 
setting of diuresis. Cr 1.7 at discharge. 

TRANSITIONAL ISSUES
Discharge Weight: 89.2 kg 

[]please check Chem7 at PCP appointment given oral diuresis and 
losartan
[]Patient initiated on home oxygen therapy, please assess 
compliance
[]consider referral to EP to evaluate AFib in the setting of 
prior Aflutter ablation
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Fluticasone Propionate NASAL 1 SPRY NU BID 
3. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
4. Metoprolol Succinate XL 100 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. ___ HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q6H:PRN wheezing 
8. Simvastatin 20 mg PO QPM 
9. Tiotropium Bromide 1 CAP IH DAILY 
10. Torsemide 30 mg PO DAILY 
11. Ferrous Sulfate 325 mg PO DAILY 
12. GlipiZIDE 5 mg PO BID 
13. GuaiFENesin ER 600 mg PO Q12H:PRN cough 

 
Discharge Medications:
1.  Losartan Potassium 50 mg PO DAILY 
RX *losartan 50 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Torsemide 40 mg PO DAILY 
RX *torsemide 20 mg 2 tablet(s) by mouth once a day Disp #*60 
Tablet Refills:*0 
3.  Allopurinol ___ mg PO DAILY 
RX *allopurinol ___ mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
4.  Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate [iron] 325 mg (65 mg iron) 1 tablet(s) by 
mouth once a day Disp #*30 Tablet Refills:*0 
5.  Fluticasone Propionate NASAL 1 SPRY NU BID 
RX *fluticasone 50 mcg/actuation 1 puff intranasal twice a day 
Disp #*1 Spray Refills:*0 
6.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
RX *fluticasone-salmeterol [Advair Diskus] 250 mcg-50 mcg/dose 1 
inhalation inhaled twice a day Disp #*1 Disk Refills:*0 
7.  GlipiZIDE 5 mg PO BID 
RX *glipizide 5 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
8.  GuaiFENesin ER 600 mg PO Q12H:PRN cough 
RX *guaifenesin 600 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*60 Tablet Refills:*0 
9.  Metoprolol Succinate XL 100 mg PO DAILY 
RX *metoprolol succinate [Toprol XL] 100 mg 1 tablet(s) by mouth 
once a day Disp #*30 Tablet Refills:*0 
10.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
11.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth once a day Disp #*30 
Capsule Refills:*0 
12.  ___ HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q6H:PRN wheezing 
RX *albuterol sulfate ___ HFA] 90 mcg 1 inhalation inhaled 
every six (6) hours Disp #*1 Inhaler Refills:*0 
13.  Simvastatin 20 mg PO QPM 
RX *simvastatin 20 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
14.  Tiotropium Bromide 1 CAP IH DAILY 
RX *tiotropium bromide [Spiriva with HandiHaler] 18 mcg 1 
inhalation inhaled daily Disp #*30 Capsule Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY
Acute on chronic diastolic heart failure
Atrial flutter s/p ablation

SECONDARY
Hypertension
Diabetes Type 2

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You came to the hospital because you were having shortness of 
breath. You were found to have extra fluid in your lungs due to 
your heart not pumping strong enough. In addition, you were 
found to have low oxygen levels due to your known lung disease.

We gave you a medication through your IV to help you urinate off 
the extra fluid. In addition, we started you on oxygen which 
made you feel better.

Weigh yourself every morning, call your primary care doctor if 
weight goes up more than 3 lbs.

Your discharge medications and follow up appointments are 
detailed below.

We wish you the best!

 
Followup Instructions:
___